US05167949
b) 2-Phenoxymethyl-4(3H)-pteridinone
A mixture of 4.0 g (0.016 mole) of 4-amino-2-(phenoxymethyl)pteridine and 400 ml of 5% aqueous sodium hydroxide is brought slowly to 95° C. and maintained at this temperature for 2 hours. After cooling, the solution obtained is acidified with acetic acid to pH 5.5. The precipitate formed is isolated by filtration. It is purified by recrystallization from ethanol. Yld: 2.8 g (70%), m.p. 220°-221° C.

reactant | 4-amino-2-(phenoxymethyl)pteridine | 0.016 mole, 4.0 g | NC1=NC(=NC2=NC=CN=C12)COC1=CC=CC=C1 | C13H11N5O
reactant | sodium hydroxide | 400 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Phenoxymethyl-4(3H)-pteridinone | O(C1=CC=CC=C1)CC1=NC2=NC=CN=C2C(N1)=O | C13H10N4O2
